US07649002B2
1-tert-Butyl 3-methyl (3S,4R)-4-(4-chlorophenyl)pyrrolidine-1,3-dicarboxylate
To a solution of methyl (3S,4R)-4-(4-chlorophenyl)pyrrolidine-3-carboxylate hydrochloride, from preparation 26 (870 mg, 2.8 mmol) and triethylamine (780 μL, 5.6 mmol) in dichloromethane (5 mL) was added di-tert-butyl dicarbonate (610 mg, 2.8 mmol) in dichloromethane (5 mL). The reaction mixture was stirred for 20 hours and diluted with ethyl acetate (50 mL). The phases were separated and the organic phase was washed with 5% citric acid solution (3×20 mL) and brine (1×20 mL). The organic phase was dried over magnesium sulfate, filtered and concentrated in vacuo to afford the desired product as a colourless oil in quantitative yield.

reactant | methyl (3S,4R)-4-(4-chlorophenyl)pyrrolidine-3-carboxylate hydrochloride | Cl.ClC1=CC=C(C=C1)[C@H]1[C@@H](CNC1)C(=O)OC
reactant | triethylamine | 5.6 mmol, 780 μL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 2.8 mmol, 610 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 1-tert-Butyl 3-methyl (3S,4R)-4-(4-chlorophenyl)pyrrolidine-1,3-dicarboxylate | quantitative yield | ClC1=CC=C(C=C1)[C@H]1[C@@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C17H22ClNO4
